US07713994B2
4-(1-Allyl-pyrrolidin-2-yl)-phenylamine
Using the same procedure described for the preparation of 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, the title compound is prepared from 1-Allyl-2-(4-bromo-phenyl)-pyrrolidine (470 mg, 1.77 mmol) in 87% yield.

reactant | 2-(4-Amino-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC=C(C=C1)N | C15H22N2O2
reactant | 1-Allyl-2-(4-bromo-phenyl)-pyrrolidine | 1.77 mmol, 470 mg | C(C=C)N1C(CCC1)C1=CC=C(C=C1)Br | C13H16BrN
product | 4-(1-Allyl-pyrrolidin-2-yl)-phenylamine | 87% yield | C(C=C)N1C(CCC1)C1=CC=C(C=C1)N | C13H18N2
